US04678781
The thiazole acid starting material was prepared as follows. Ethyl (Z)-2-hydroxyimino-2-(2-tritylaminothiazol-4-yl)acetate hydrochloride (9.87 g.) was suspended in DMF (50 ml.) and treated with potassium carbonate (5.52 g.) and 2-bromoethyl ethyl ether (2.25 ml.). After stirring for 10 days at ambient temperature the mixture was diluted with water and worked up conventionally by extraction into EtOAc followed by chromatography on silica, eluting with 98:2 (v/v) CH2Cl2 :EtOAc. The ethyl ester was dissolved in 1,2-dimethoxyethane (12 ml.), 2N aqueous NaOH solution (8.9 ml.) added, and the mixture heated under reflux for 2 hours. The mixture was cooled to 0°, the precipitate filtered, washed with a mixture of dimethoxyethane/water (1:1, v/v, 2×10 ml.) then dimethoxyethane/ether (1:1, v/v, 10 ml.). The precipitate was suspended in DMSO (50 ml.), acidified with 2NHCl (10 ml.), and diluted with water (500 ml.). The precipitate was filtered, washed well with water, and dried to give 2-((Z)-2-ethoxyethoxyimino)-2-(2-tritylaminothiazol-4-yl)acetic acid, having the following n.m.r. in CDCl3 : 1.07(t, 3H); 3.43(q, 2H); 3.62(t, 2H); 4.23(t, 2H); 6.5(s, 1H); 7.27(s, 15H).

reactant | thiazole | S1C=NC=C1 | C3H3NS
reactant | Ethyl (Z)-2-hydroxyimino-2-(2-tritylaminothiazol-4-yl)acetate hydrochloride | 9.87 g | Cl.O\N=C(/C(=O)OCC)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | 5.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethyl ethyl ether | 2.25 ml | C(C)OCCBr | C4H9BrO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-((Z)-2-ethoxyethoxyimino)-2-(2-tritylaminothiazol-4-yl)acetic acid | C(C)OCCO\N=C(/C(=O)O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H27N3O4S
